US06716843B2
(S)-N-{2-[2-Amino-3-oxo-3-(1-pyrrolidinyl)-propylthio]-ethyl}-methanesulphonamide Hydrochloride
Starting from (S)-3-(2-{[benzyloxycarbonyl]-amino}-ethylthio)-N-(tert-butyloxy-carbonyl)-alanine, methanesulphonyl chloride and pyrrolidine, the expected product is obtained according to the procedure described in Example 37.

reactant | (S)-3-(2-{[benzyloxycarbonyl]-amino}-ethylthio)-N-(tert-butyloxy-carbonyl)-alanine | C(C1=CC=CC=C1)OC(=O)NCCSC[C@@H](NC(=O)OC(C)(C)C)C(=O)O | C18H26N2O6S
reactant | methanesulphonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (S)-N-{2-[2-Amino-3-oxo-3-(1-pyrrolidinyl)-propylthio]-ethyl}-methanesulphonamide Hydrochloride | Cl.N[C@H](CSCCNS(=O)(=O)C)C(N1CCCC1)=O | InChI=1S/C10H21N3O3S2.ClH/c1-18(15,16)12-4-7-17-8-9(11)10(14)13-5-2-3-6-13;/h9,12H,2-8,11H2,1H3;1H/t9-;/m1./s1
